US06831193B2
N-[3-(4-tert-butylphenoxy)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine
3-(4-tert-Butylphenoxy)benzaldehyde and (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine were processed as described in Example 1A to provide the title compound.

reactant | 3-(4-tert-Butylphenoxy)benzaldehyde | C(C)(C)(C)C1=CC=C(OC=2C=C(C=O)C=CC2)C=C1 | C17H18O2
reactant | (1S)-1,2,3,4-tetrahydro-1-naphthalenylamine | [C@@H]1(CCCC2=CC=CC=C12)N | C10H13N
product | N-[3-(4-tert-butylphenoxy)benzyl]-N-[(1S)-1,2,3,4-tetrahydro-1-naphthalenyl]amine | C(C)(C)(C)C1=CC=C(OC=2C=C(CN[C@H]3CCCC4=CC=CC=C34)C=CC2)C=C1 | C27H31NO
